US06881755B2
Crude 2-(N-benzyloxycarbonylamino)ethanesulfonyl chloride was dissolved in acetonitrile (10 mL). The resulting solution was cooled on an ice/water bath and a solution 1:1 of 28% NH4OH (5 mL) and acetonitrile (5 mL) was dropped therein. After stirring for 30′, the solvents were evaporated off under vacuum and the crude residue was recrystallised with methanol to give 2-(N-benzyloxycarbonylamino)ethanesulfonamide as white powder (0.51 g; 1.96 mmol).

reactant | 2-(N-benzyloxycarbonylamino)ethanesulfonyl chloride | C(C1=CC=CC=C1)OC(=O)NCCS(=O)(=O)Cl | C10H12ClNO4S
reactant | NH4OH | 5 mL | [NH4+].[OH-]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 2-(N-benzyloxycarbonylamino)ethanesulfonamide | C(C1=CC=CC=C1)OC(=O)NCCS(=O)(=O)N | C10H14N2O4S
